2183-09-22 05:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Off Neosynephrine since 2 am.
   Ordered Lasix 20 mg IV for fluid overload, contribution of diastolic
   CHF with elevated BNP but has not received yet [**1-18**] low BP
   Desats to mid 80s with agitation in am
   c/o L hand pain, given Tramadol which she was on prior to admission and
   had been taking at previous admission
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-22**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 77 (62 - 90) bpm
   BP: 90/37(49) {84/37(49) - 138/71(82)} mmHg
   RR: 24 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     31 mL
                                                                      8 mL
   PO:
             TF:
   IVF:
                                                                     31 mL
                                                                      8 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                    150 mL
   Urine:
                                                                    170 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -139 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.32/54/123/26/0
   PaO2 / FiO2: 123
   Physical Examination
   Gen: Kyphotic, elderly female sitting in bed, NAD, occasionally
   coughing, at times agitated throughout morning but now interactive,
   appropriate
   HEENT: PERRL, EOMI, MM dry
   Neck: no LAD, supple, JVP of 7-8cm, difficult to assess [**1-18**] body
   position
   Heart: RRR, 1/6 systolic murmur at LUSB no r/g
   Lungs: diffuse expiratory rhonchi throughout, had basilar crackles on
   examprior but could not assess this am since only auscultated
   anteriorly
   Abd: +BS, NT/ND, soft
   Ext: 1+ pitting edema bilaterally, both legs equally erythematous from
   shin to knee, non TTP, extremities warm to touch, but no focal warmth,
   no tenderness
   Neuro: AAOx to year,
hospital
 although thought she was at [**Hospital 1518**]
s. MAE
   Labs / Radiology
   199 K/uL
   9.5 g/dL
   77 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   21 mg/dL
   104 mEq/L
   137 mEq/L
   28.5 %
   7.5 K/uL
        [image002.jpg]
   Legionella urinary Ag pending
   Blood cx x 2 NGTD
   BNP 3940
                             [**2183-9-21**]  07:05 PM
                             [**2183-9-22**]  02:56 AM
   WBC
   7.5
   Hct
   28.5
   Plt
   199
   Cr
   0.9
   TropT
   0.02
   TCO2
   29
   Glucose
   77
   Other labs: CK / CKMB / Troponin-T:33//0.02, Ca++:9.0 mg/dL, Mg++:1.5
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   86 year old woman with h/o diastolic CHF and recent PNA now admitted
   with cough and hypoxia, found to have possible pneumonia and probable
   CHF exacerbation.
   .
   #) Pneumonia - Patient has new oxygen requirement, new cough, and CXR
   showing possible new infiltrate concerning for a pneumonia. Has HAP
   risk factors and h/o MRSA. Also concern for aspiration. Pt low grade
   febrile in ED but afebrile since admission. Will need to reassess
   repeat CXR this am for infiltrate and consider PA and lateral to
   further characterize if poor study.
   -- Continue vanc and cefepime for HAP for now and consider narrow
   regimen based on clinical picture, repeat CXR, fever curve, cx data
   -- sputum cultures
   -- urine legionella
   -- nebs and supplemental O2
   .
   #) Acute on Chronic Diastolic CHF - hypoxic with an oxygen requirement
   and basilar rales on exam with elevated BNP c/w prior consistent with
   CHF exacerbation.
   -- begin diuresis with lasix 20mg IV x 1 when BP stable off pressors
   -- strict I/Os, daily weights
   -- low Na diet
   -- hold lisinopril and metoprolol in setting of acute decompensation.
   Will restart at discharge
   .
   # L hand pain: This has been chronic issue for patient. Pain noted in
   prior DC summary from [**Month (only) **]. She was admitted on and discharged on
   Tramadol 50 prn.
   -          restarted Tramadol 50 prn. Hold for sedation .
   # Agitation: Pt agitated this am on exam around 2 am, again around
   6-7am. She calmed down after left hand pain treated with tramadol. Also
   re-oriented frequently. O2 sats decreased with agitation. ? possible
   etiology of agitation. O2 requirement less this am. Would attempt
   reorientation, Zyprexa 0.25 ODT prn agitation if further episodes but
   would like to avoid polypharmacy if possible
   .
   #Anemia: HCT decreased from 36.1 to 28.5 over less than 24 hours. Most
   likely 36 is false read given chronically anemic with baseline HCT
   appears to be low 30s. Unlikely to have bleed given no BM, no obvious
   bleed. Will repeat HCT and re-eval. - -
   -          Guaiac stool
   -          Repeat HCT
   .
   #) Hypotension - developed s/p nitro gtt, requiring neosynephine.
   Family understands that peripheral pressors may not be continued more
   than 24 hours. Off pressors now since 2 am. BP stable with MAP >60
   -- follow for now, BP stable off pressors
   .
   #) Intermittent SVT - On previous admission, patient had significant
   asymptomatic atrial ectopy with many runs of SVT. Was in this rhythm in
   the ED. Previously, she did not tolerate beta blockade due to
   symptomatic bradycardia
   -- monitor on tele. Currently NSR
   -- holding BB given hypotension and prior bradycardia
   .
   #) CAD - Patient has no history of symptomatic CAD, but had a troponin
   leak in prior hospitalization which was attributed to strain in the
   setting of atrial ectopy and SVT. No compelling evidence of ongoing
   cardiac ischemia to explain current sxs (EKG, CE's x 2 neg)
   -- continue ASA 81mg daily
   -- r/o with 2 sets negative biomarkers
   -- telemetry
   .
   # Osteoporosis -
   -- continue daily vitamin D and calcium, and fosamax 70 mg qSat.
   .
   # Chronic Venous Stasis
 BL LE erythema, edema concerning for
   cellultitis but unchanged from baseline per son, patient and noted in
   prior notes as well. Less likely to be cellulitis given chronic nature,
   bilaterality.
   -- continue skin creams
   .
   # Access
   -- PIV, no central access per goals of care
   .
   # FEN -
   -- Patient had a normal S/S eval in [**7-25**], no overt signs or symptoms of
   aspiration, soft diet
   -- replete lytes prn
   .
   # PPx -
   -- sQ heparin
   -- bowel regimen
   -- home PPI
   .
   # Dispo
   -- Will call out since off pressors, no need for further ICU level care
   since refusing central access, DNR/DNI
   .
   # Comm
   n        HCP Daughter [**Name (NI) **] [**Name (NI) 59**] ([**Telephone/Fax (1) 1498**], son is alternate HCP
   #Code: DNR/DNI
   ICU Care
   Nutrition:
   Comments: low Na soft solids thin liquids
   Glycemic Control: Blood sugar well controlled
   Lines:
   18 Gauge - [**2183-9-21**] 08:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-9-21**] 08:00 PM
   18 Gauge - [**2183-9-21**] 08:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2183-09-22 09:37:00 Physician Attending Progress Note
Chief Complaint: resp distress, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 86 yr old woman with resp distress
   24 Hour Events:
   Able to wean off peripheral Neo since 2AM
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2183-9-22**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 83 (62 - 102) bpm
   BP: 102/45(58) {84/37(49) - 138/71(82)} mmHg
   RR: 23 (19 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     31 mL
                                                                     38 mL
   PO:
             30 mL
   TF:
   IVF:
                                                                     31 mL
                                                                      8 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                    275 mL
   Urine:
                                                                    170 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -139 mL
                                                                   -237 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.32/54/123/26/0
   PaO2 / FiO2: 176
   Physical Examination
   General Appearance: kyphotic elderly female
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Chest: fair air movement
   Skin:  bilat LE erythema from knee to shin, warm
 but symmetrically so
   with feet and thighs
   Neurologic: alert, asiing for food and coffee
   Labs / Radiology
   9.5 g/dL
   199 K/uL
   77 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   21 mg/dL
   104 mEq/L
   137 mEq/L
   28.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2183-9-21**]  07:05 PM
                             [**2183-9-22**]  02:56 AM
   WBC
   7.5
   Hct
   28.5
   Plt
   199
   Cr
   0.9
   TropT
   0.02
   TCO2
   29
   Glucose
   77
   Other labs: CK / CKMB / Troponin-T:33//0.02, Ca++:9.0 mg/dL, Mg++:1.5
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Resp Distress
   Pneumonia
   Anemia
   1.       Hypoxemic Resp Distress- likely a component of pulmonary edema
   with possible concomitant nosocomial PNA. Did not have the BP to allow
   for much diuresis
 but now off Neo so may be able to diurese gently.
   For PNA- Vanco Cefipime, follow up CX and repeat CXR.
   2.       Systolic CHF- if stays pressors may be able to start a low
   dose lasix late AM
 quantify true O2 req.
   3.       SVT: stable in sinus currently. Holding bblockade right now
   but will restart in next 24 hours if able.
   4.       Anemia: this HCT is actually at baseline, will trend guiac all
   stools
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: AHA diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-9-21**] 08:00 PM
   18 Gauge - [**2183-9-21**] 08:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer: ppi
   Communication:  pt and family, DNI/DNR, no central line
   Code status: DNR / DNI
   Disposition :Transfer to floor

2183-09-23 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-22**] 12:33 PM
   Cefipime - [**2183-9-22**] 07:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2183-9-22**] 09:15 PM
   Heparin Sodium (Prophylaxis) - [**2183-9-22**] 10:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-23**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.4
   HR: 62 (61 - 100) bpm
   BP: 107/52(65) {97/37(53) - 150/63(84)} mmHg
   RR: 14 (12 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    838 mL
                                                                    200 mL
   PO:
                                                                    530 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    308 mL
   Blood products:
   Total out:
                                                                    635 mL
                                                                    270 mL
   Urine:
                                                                    635 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    203 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Gen: Kyphotic, elderly female sitting in bed, NAD, occasionally
   coughing, at times agitated throughout morning but now interactive,
   appropriate
   HEENT: PERRL, EOMI, MM dry
   Neck: no LAD, supple, JVP of 7-8cm, difficult to assess [**1-18**] body
   position
   Heart: RRR, 1/6 systolic murmur at LUSB no r/g
   Lungs: diffuse expiratory rhonchi throughout, had basilar crackles on
   examprior but could not assess this am since only auscultated
   anteriorly
   Abd: +BS, NT/ND, soft
   Ext: 1+ pitting edema bilaterally, both legs equally erythematous from
   shin to knee, non TTP, extremities warm to touch, but no focal warmth,
   no tenderness
   Neuro: AAOx to year,
hospital
 although thought she was at [**Hospital 1518**]
s. MAE
   Labs / Radiology
   194 K/uL
   10.0 g/dL
   84 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.7 mEq/L
   25 mg/dL
   102 mEq/L
   134 mEq/L
   30.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2183-9-21**]  07:05 PM
                             [**2183-9-22**]  02:56 AM
                             [**2183-9-23**]  03:03 AM
   WBC
   7.5
   6.1
   Hct
   28.5
   30.7
   Plt
   199
   194
   Cr
   0.9
   0.9
   TropT
   0.02
   TCO2
   29
   Glucose
   77
   84
   Other labs: CK / CKMB / Troponin-T:33//0.02, Ca++:9.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   86 year old woman with h/o diastolic CHF and recent PNA now admitted
   with cough and hypoxia, found to have possible pneumonia and probable
   CHF exacerbation.
   .
   #) Pneumonia - Patient has new oxygen requirement, new cough, and CXR
   showing possible new infiltrate concerning for a pneumonia. Has HAP
   risk factors and h/o MRSA. Also concern for aspiration. Pt low grade
   febrile in ED but afebrile since admission. Will need to reassess
   repeat CXR this am for infiltrate and consider PA and lateral to
   further characterize if poor study.
   -- Continue vanc and cefepime for HAP for now and consider narrow
   regimen based on clinical picture, repeat CXR, fever curve, cx data
   -- sputum cultures
   -- urine legionella
   -- nebs and supplemental O2
   .
   #) Acute on Chronic Diastolic CHF - hypoxic with an oxygen requirement
   and basilar rales on exam with elevated BNP c/w prior consistent with
   CHF exacerbation.
   -- begin diuresis with lasix 20mg IV x 1 when BP stable off pressors
   -- strict I/Os, daily weights
   -- low Na diet
   -- hold lisinopril and metoprolol in setting of acute decompensation.
   Will restart at discharge
   .
   # L hand pain: This has been chronic issue for patient. Pain noted in
   prior DC summary from [**Month (only) **]. She was admitted on and discharged on
   Tramadol 50 prn.
   -          restarted Tramadol 50 prn. Hold for sedation .
   # Agitation: Pt agitated this am on exam around 2 am, again around
   6-7am. She calmed down after left hand pain treated with tramadol. Also
   re-oriented frequently. O2 sats decreased with agitation. ? possible
   etiology of agitation. O2 requirement less this am. Would attempt
   reorientation, Zyprexa 0.25 ODT prn agitation if further episodes but
   would like to avoid polypharmacy if possible
   .
   #Anemia: HCT decreased from 36.1 to 28.5 over less than 24 hours. Most
   likely 36 is false read given chronically anemic with baseline HCT
   appears to be low 30s. Unlikely to have bleed given no BM, no obvious
   bleed. Will repeat HCT and re-eval. - -
   -          Guaiac stool
   -          Repeat HCT
   .
   #) Hypotension - developed s/p nitro gtt, requiring neosynephine.
   Family understands that peripheral pressors may not be continued more
   than 24 hours. Off pressors now since 2 am. BP stable with MAP >60
   -- follow for now, BP stable off pressors
   .
   #) Intermittent SVT - On previous admission, patient had significant
   asymptomatic atrial ectopy with many runs of SVT. Was in this rhythm in
   the ED. Previously, she did not tolerate beta blockade due to
   symptomatic bradycardia
   -- monitor on tele. Currently NSR
   -- holding BB given hypotension and prior bradycardia
   .
   #) CAD - Patient has no history of symptomatic CAD, but had a troponin
   leak in prior hospitalization which was attributed to strain in the
   setting of atrial ectopy and SVT. No compelling evidence of ongoing
   cardiac ischemia to explain current sxs (EKG, CE's x 2 neg)
   -- continue ASA 81mg daily
   -- r/o with 2 sets negative biomarkers
   -- telemetry
   .
   # Osteoporosis -
   -- continue daily vitamin D and calcium, and fosamax 70 mg qSat.
   .
   # Chronic Venous Stasis
 BL LE erythema, edema concerning for
   cellultitis but unchanged from baseline per son, patient and noted in
   prior notes as well. Less likely to be cellulitis given chronic nature,
   bilaterality.
   -- continue skin creams
   .
   # Access
   -- PIV, no central access per goals of care
   .
   # FEN -
   -- Patient had a normal S/S eval in [**7-25**], no overt signs or symptoms of
   aspiration, soft diet
   -- replete lytes prn
   .
   # PPx -
   -- sQ heparin
   -- bowel regimen
   -- home PPI
   .
   # Dispo
   -- Will call out since off pressors, no need for further ICU level care
   since refusing central access, DNR/DNI
   .
   # Comm
   n        HCP Daughter [**Name (NI) **] [**Name (NI) 59**] ([**Telephone/Fax (1) 1498**], son is alternate HCP
   #Code: DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2183-9-22**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2183-09-23 12:14:00 Physician Attending Progress Note
Chief Complaint: resp distress,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Ate dinner, small aspiration with desat, kept in MICU overnight for
   observation
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-22**] 12:33 PM
   Cefipime - [**2183-9-22**] 07:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2183-9-22**] 09:15 PM
   Heparin Sodium (Prophylaxis) - [**2183-9-23**] 08:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-23**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 72 (61 - 84) bpm
   BP: 135/57(75) {97/37(53) - 150/69(86)} mmHg
   RR: 20 (12 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    838 mL
                                                                    300 mL
   PO:
                                                                    530 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    308 mL
   Blood products:
   Total out:
                                                                    635 mL
                                                                    485 mL
   Urine:
                                                                    635 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    203 mL
                                                                   -185 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Gen elderly woan, lying in bed, mod resp diostress with persistent
   coughing
   CV: RR
   Chest: bromchial BS left base, inspiratory rales,
   Abd: soft NT
   Ext: chronic venous stasis changes
   Neuro: alert conversant, complains of SOB
   Labs / Radiology
   CXR: significantly worsened bilat pulm edema with fluidin fissues, more
   focal LLL opacity
   10.0 g/dL
   194 K/uL
   84 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.7 mEq/L
   25 mg/dL
   102 mEq/L
   134 mEq/L
   30.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2183-9-21**]  07:05 PM
                             [**2183-9-22**]  02:56 AM
                             [**2183-9-23**]  03:03 AM
   WBC
   7.5
   6.1
   Hct
   28.5
   30.7
   Plt
   199
   194
   Cr
   0.9
   0.9
   TropT
   0.02
   TCO2
   29
   Glucose
   77
   84
   Other labs: CK / CKMB / Troponin-T:33//0.02, Ca++:9.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Resp Distress
   Pneumonia
   Anemia
   1.       Hypoxemic Resp Distress- likely a component of pulmonary edema
   with possible concomitant nosocomial PNA. Did not have the BP to allow
   for much diuresis
 but now off Neo so may be able to diurese gently.
   For PNA- Vanco Cefipime, follow up CX and repeat CXR.
   2.       Systolic CHF- if stays pressors may be able to start a low
   dose lasix late AM
 quantify true O2 req.
   3.       SVT: stable in sinus currently. Holding bblockade right now
   but will restart in next 24 hours if able.
   4.       Anemia: this HCT is actually at baseline, will trend guiac all
   stools
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2183-9-22**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent:

2183-09-24 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Diuresed
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-23**] 01:15 PM
   Cefipime - [**2183-9-23**] 06:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2183-9-23**] 12:40 PM
   Heparin Sodium (Prophylaxis) - [**2183-9-23**] 01:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-24**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 90 (70 - 123) bpm
   BP: 126/57(75) {110/43(61) - 172/84(102)} mmHg
   RR: 23 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    840 mL
                                                                    240 mL
   PO:
                                                                    540 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,515 mL
                                                                    500 mL
   Urine:
                                                                  2,515 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,675 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   10.0 g/dL
   120 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.3 mEq/L
   19 mg/dL
   94 mEq/L
   133 mEq/L
   30.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2183-9-21**]  07:05 PM
                             [**2183-9-22**]  02:56 AM
                             [**2183-9-23**]  03:03 AM
                             [**2183-9-23**]  05:54 PM
   WBC
   7.5
   6.1
   Hct
   28.5
   30.7
   Plt
   199
   194
   Cr
   0.9
   0.9
   0.8
   TropT
   0.02
   TCO2
   29
   Glucose
   77
   84
   120
   Other labs: CK / CKMB / Troponin-T:33//0.02, Ca++:9.4 mg/dL, Mg++:1.7
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   86 year old woman with shortness of breath, hypoxemia, and cough likely
   secondary to acute on chronic diastolic CHF and PNA.
   .
   #) Pneumonia - Patient has new oxygen requirement, new cough, and CXR
   showing new infiltrate concerning for a pneumonia. Has HAP risk factors
   and h/o MRSA. Also concern for aspiration. Pt low grade febrile in ED
   but afebrile since admission. Repeat CXR and physical exam concerning
   for L pneumonia
   -- Continue vanc and cefepime for HAP
   -- Follow blood cx, fever curve, unable to obtain sputum specimen
   -- urine legionella neg
   -- nebs and supplemental O2
   -- chest PT
   .
   #) Acute on Chronic Diastolic CHF - hypoxic with an oxygen requirement
   and basilar rales on exam with elevated BNP c/w CHF exacerbation.
   -- begin diuresis with lasix 20mg IV x 1 since BP now stable off
   pressors
   -- strict I/Os, daily weights
   -- low Na diet
   -- hold lisinopril and metoprolol in setting of acute decompensation.
   Will restart when BP more stable
   .
   # L hand pain: This has been chronic issue for patient. Pain noted in
   prior DC summary from [**Month (only) **]. She was admitted on and discharged on
   Tramadol 50 prn.
   -          restarted Tramadol 50 prn. Hold for sedation .
   # Agitation: Pt agitated this am on exam again, given Haldol for
   agitation. She calmed down after left hand pain treated with tramadol.
   Also re-oriented frequently. O2 sats decreased with agitation. ?
   possible etiology of agitation. O2 requirement less this am. Would
   attempt reorientation, Haldol prn
   .
   #Anemia: HCT decreased from 36.1 to 28.5 over less than 24 hours. Most
   likely 36 is false read given chronically anemic with baseline HCT
   appears to be low 30s. Unlikely to have bleed given no BM, no obvious
   bleed. Will repeat HCT and re-eval. - -
   -          Guaiac stool
   -          Repeat HCT
   .
   #) Hypotension - developed s/p nitro gtt, requiring neosynephine.
   Family understands that peripheral pressors may not be continued more
   than 24 hours. Off pressors now since 2 am. BP stable with MAP >60
   -- follow for now, BP stable off pressors
   .
   #) Intermittent SVT - On previous admission, patient had significant
   asymptomatic atrial ectopy with many runs of SVT. Was in this rhythm in
   the ED. Previously, she did not tolerate beta blockade due to
   symptomatic bradycardia
   -- monitor on tele. Currently NSR
   -- holding BB given hypotension and prior bradycardia
   .
   #) CAD - Patient has no history of symptomatic CAD, but had a troponin
   leak in prior hospitalization which was attributed to strain in the
   setting of atrial ectopy and SVT. No compelling evidence of ongoing
   cardiac ischemia to explain current sxs (EKG, CE's x 2 neg)
   -- continue ASA 81mg daily
   -- r/o with 2 sets negative biomarkers
   -- telemetry
   .
   # Osteoporosis -
   -- continue daily vitamin D and calcium, and fosamax 70 mg qSat.
   .
   # Chronic Venous Stasis
 BL LE erythema, edema concerning for
   cellultitis but unchanged from baseline per son, patient and noted in
   prior notes as well. Less likely to be cellulitis given chronic nature,
   bilaterality.
   -- continue skin creams
   .
   # Access
   -- PIV, no central access per goals of care
   .
   # FEN -
   -- Patient had S/S eval recommended pureed with nectar thick liquids,
   1:1 supervision
   -- replete lytes prn
   .
   # PPx -
   -- sQ heparin
   -- bowel regimen
   -- home PPI
   .
   # Dispo
   -- Will call out since off pressors, no need for further ICU level care
   since refusing central access, DNR/DNI
   .
   # Comm
   n        HCP Daughter [**Name (NI) **] [**Name (NI) 59**] ([**Telephone/Fax (1) 1498**], son is alternate HCP
   #Code: DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2183-9-22**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2183-09-24 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Bronchoscopy in AM
   ECHO: Dilated right ventricle with borderline normal function.
   Preserved left ventricular systolic function.
   Compared with the prior study (images reviewed) of [**2183-9-22**], right
   ventricle appears more dilated and hypokinetic.
   Weaned off pressors:
   Rad Onc commented: little benefit from further radiation
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-23**] 01:15 PM
   Cefipime - [**2183-9-23**] 06:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2183-9-23**] 12:40 PM
   Heparin Sodium (Prophylaxis) - [**2183-9-23**] 01:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-24**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 90 (70 - 123) bpm
   BP: 126/57(75) {110/43(61) - 172/84(102)} mmHg
   RR: 23 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    840 mL
                                                                    240 mL
   PO:
                                                                    540 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,515 mL
                                                                    500 mL
   Urine:
                                                                  2,515 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,675 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   10.0 g/dL
   120 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.3 mEq/L
   19 mg/dL
   94 mEq/L
   133 mEq/L
   30.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2183-9-21**]  07:05 PM
                             [**2183-9-22**]  02:56 AM
                             [**2183-9-23**]  03:03 AM
                             [**2183-9-23**]  05:54 PM
   WBC
   7.5
   6.1
   Hct
   28.5
   30.7
   Plt
   199
   194
   Cr
   0.9
   0.9
   0.8
   TropT
   0.02
   TCO2
   29
   Glucose
   77
   84
   120
   Other labs: CK / CKMB / Troponin-T:33//0.02, Ca++:9.4 mg/dL, Mg++:1.7
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2183-9-22**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2183-09-24 12:13:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   recurrent aspiration with eating
   Desat AFib
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-23**] 01:15 PM
   Cefipime - [**2183-9-23**] 06:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-9-23**] 01:35 PM
   Furosemide (Lasix) - [**2183-9-24**] 11:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, Dyspnea
   Flowsheet Data as of  [**2183-9-24**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 137 (74 - 137) bpm
   BP: 143/85(95) {110/43(61) - 172/85(102)} mmHg
   RR: 33 (19 - 33) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    840 mL
                                                                    480 mL
   PO:
                                                                    540 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,515 mL
                                                                  1,045 mL
   Urine:
                                                                  2,515 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,675 mL
                                                                   -565 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 91%
   ABG: ///32/
   Physical Examination
   Gen: elderly female sitting up in bed with mod resp distress
   HEENTo/p clear
   CV: irreg irreg
   Chest: egophony at left base, rales n right
   Abd:
   Ext trace edema:
   Neuro:conversant, hard of hearing as
   Labs / Radiology
   10.1 g/dL
   211 K/uL
   107 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.1 mEq/L
   19 mg/dL
   95 mEq/L
   134 mEq/L
   31.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2183-9-21**]  07:05 PM
                             [**2183-9-22**]  02:56 AM
                             [**2183-9-23**]  03:03 AM
                             [**2183-9-23**]  05:54 PM
                             [**2183-9-24**]  05:36 AM
   WBC
   7.5
   6.1
   6.2
   Hct
   28.5
   30.7
   31.0
   Plt
   199
   194
   211
   Cr
   0.9
   0.9
   0.8
   0.8
   TropT
   0.02
   TCO2
   29
   Glucose
   77
   84
   120
   107
   Other labs: CK / CKMB / Troponin-T:33//0.02, Ca++:8.9 mg/dL, Mg++:1.5
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Resp Distress
   Pneumonia
   Anemia
   1.       Afib with RVR this AM: precipitated by hypoxemia, some volume
   overload. We will control acutely will IV bblocker and start low dose
   bblocker. She does have known diastolic dysfunction and needs adequate
   filling time.
   2.       Hypoxemic Resp Distress- combination of pulmonary edema and
   Pneumonia
 her exam today has worsening consolidation -  this could be
   worsening nosocomial PNA versus aspiration. We will add double GNR
   coverage and get additional sputum samples. NPO and swallow study. Goal
   500 to 1000 cc negative as BP tolerates. She remains DNI
   3.       Anemia: this HCT is actually at baseline, will trend guiac all
   stools
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: NPO as aspirating with every attempt at feeding
   Glycemic Control:
   Lines:
   18 Gauge - [**2183-9-22**] 02:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:  with pt, try to arrange family meeting with daughter to
   discuss
   Code status: DNR / DNI
   Disposition : ICU for now
   Critical Care 35 minutes

2183-09-24 13:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Diuresed Overnight
   Haloperidol given x1 for agitation
   Decreased 02 Requirement to 4L NC , de-sats to 80's when off NC
   Pt went in AF with RVR this AM to 130s, Broken with Metoprolol 2.5mg
   x2.
   Pills suctioned from pts oropharynx
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-23**] 01:15 PM
   Cefipime - [**2183-9-23**] 06:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-9-23**] 01:35 PM
   Furosemide (Lasix) - [**2183-9-24**] 11:15 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2183-9-24**] 01:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 81 (74 - 137) bpm
   BP: 150/66(80) {110/43(61) - 172/85(102)} mmHg
   RR: 32 (19 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SA (Sinus Arrhythmia)
                  Total In:
                                                                    840 mL
                                                                    480 mL
   PO:
                                                                    540 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,515 mL
                                                                  1,045 mL
   Urine:
                                                                  2,515 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,675 mL
                                                                   -565 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : On R, Bronchial: On L,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, HOH
   Labs / Radiology
   211 K/uL
   10.1 g/dL
   107 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.1 mEq/L
   19 mg/dL
   95 mEq/L
   134 mEq/L
   31.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2183-9-21**]  07:05 PM
                             [**2183-9-22**]  02:56 AM
                             [**2183-9-23**]  03:03 AM
                             [**2183-9-23**]  05:54 PM
                             [**2183-9-24**]  05:36 AM
   WBC
   7.5
   6.1
   6.2
   Hct
   28.5
   30.7
   31.0
   Plt
   199
   194
   211
   Cr
   0.9
   0.9
   0.8
   0.8
   TropT
   0.02
   TCO2
   29
   Glucose
   77
   84
   120
   107
   Other labs: CK / CKMB / Troponin-T:33//0.02, Ca++:8.9 mg/dL, Mg++:1.5
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   86yoF with dCHF p/w likely acute on chronic diastolic CHF exacerbation
   and [**Year (4 digits) 613**]
   # AF with RVR: Pt had runs to 130s this AM with subsequent
   de-saturation to 130s. Broke with Metoprolol 2.5 x 2. Pt was given
   Metoprolol 5mg PO, however pills were suctioned out.
   -          Will keep on Metoprolol 5mg IV QID while in ICU
   # Acute on Chronic Diastolic CHF. Pt decreased to 4L NC overnight
   -          Cont Diuresis with goal of
 1L today
   -          Strict I/O
   # [**Name (NI) 613**]
 Pt spiked today without leukocytosis. ?Resistant Organism vs
   Aspiration Pneumonitis
   -          Cont Vanc (Day #[**3-25**]), will change Cefepime to Meropenem to
   broaden coverage
   # Osteoperosis
   -          Dilay Vit D, Calcium , Fosamax
   # Chronic Venous Stasis
 Erythema stable
   -          Cont Skin Creams
   #Nutrition: Pt aspirating chronically per nursing
   - Video speech and swallow
   # Access: PIV - 18
   # PPx: SQH, Bowel Regimen, Home PPi
   # Disp: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2183-9-22**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2183-09-25 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2183-9-24**] 12:00 PM
 BLOOD CULTURED - At [**2183-9-24**] 05:21 PM
   x2
 STOOL CULTURE - At [**2183-9-24**] 05:21 PM
   Spiked fever 101.1 yesterday. Added meropenem for coverage.
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2183-9-23**] 06:00 PM
   Vancomycin - [**2183-9-24**] 12:00 PM
   Meropenem - [**2183-9-24**] 07:30 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2183-9-24**] 11:15 AM
   Metoprolol - [**2183-9-25**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: No changes
   Flowsheet Data as of  [**2183-9-25**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.5
C (97.7
   HR: 65 (65 - 137) bpm
   BP: 120/70(80) {95/50(68) - 179/137(141)} mmHg
   RR: 20 (19 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    830 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  2,685 mL
                                                                    400 mL
   Urine:
                                                                  2,685 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,855 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 95%
   ABG: ///35/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: EOMI, PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles, maginally improved : On
   R, Bronchial: On L: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, HOH
   Labs / Radiology
   205 K/uL
   11.1 g/dL
   97 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.6 mEq/L
   17 mg/dL
   95 mEq/L
   138 mEq/L
   31.7 %
   5.6 K/uL
        [image002.jpg]
                             [**2183-9-21**]  07:05 PM
                             [**2183-9-22**]  02:56 AM
                             [**2183-9-23**]  03:03 AM
                             [**2183-9-23**]  05:54 PM
                             [**2183-9-24**]  05:36 AM
                             [**2183-9-25**]  03:10 AM
   WBC
   7.5
   6.1
   6.2
   5.6
   Hct
   28.5
   30.7
   31.0
   31.7
   Plt
   199
   194
   211
   205
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   TropT
   0.02
   TCO2
   29
   Glucose
   77
   84
   120
   107
   97
   Other labs: CK / CKMB / Troponin-T:33//0.02, Ca++:9.3 mg/dL, Mg++:2.1
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   86yoF with dCHF p/w likely acute on chronic diastolic CHF exacerbation
   and HCAP
   # AF with RVR: HR stable overnight in AF. Now on Metoprolol 5mg IV QID.
   - Will transition to Metoprolol 12.5mg PO TID with parameters as
   tolerated
   # Acute on Chronic Diastolic CHF. Pt decreased to 4L NC overnight.
   Marginally improved lung fields on R.
   -          Cont Diuresis with goal of 0.5L today
   -          Strict I/O
   # HCAP
 Aferbile without leukocytosis or increased. ?Resistant
   Organism vs Aspiration Pneumonitis
   -          Cont Vanc (Day #[**4-24**]), day #[**1-24**] Meropenem
   # Osteoperosis
   -          Dilay Vit D, Calcium , Fosamax
   # Chronic Venous Stasis
 Erythema stable
   -          Cont Skin Creams
   #Nutrition: Bedside speech and swallow performed this AM.
- PO diet of thin liquids and puree consistencies.
- Pills crushed with puree.
- 1:1 supervision for all POs.
- Alternate between bites and sips.
- Maintain aspiration precautions and reflux precautions (i.e.
staying upright after meals, head of bed above 30 degrees).
   - Holding off on Video speech and swallow
   # Access: PIV - 18
   # PPx: SQH, Bowel Regimen, Home PPi
   # Disp: ICU called out to Floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2183-9-22**] 02:00 PM
   20 Gauge - [**2183-9-24**] 02:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2183-09-25 12:01:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2183-9-24**] 12:00 PM
 BLOOD CULTURED - At [**2183-9-24**] 05:21 PM
   x2
 STOOL CULTURE - At [**2183-9-24**] 05:21 PM
 FEVER - 101.1
F - [**2183-9-24**] 04:00 PM
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2183-9-23**] 06:00 PM
   Vancomycin - [**2183-9-24**] 12:00 PM
   Meropenem - [**2183-9-25**] 05:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2183-9-25**] 06:59 AM
   Heparin Sodium (Prophylaxis) - [**2183-9-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2183-9-25**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.3
C (97.4
   HR: 80 (65 - 136) bpm
   BP: 118/78(85) {95/44(58) - 179/137(141)} mmHg
   RR: 26 (19 - 32) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    830 mL
                                                                    230 mL
   PO:
                                                                    480 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    350 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,685 mL
                                                                    577 mL
   Urine:
                                                                  2,685 mL
                                                                    577 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,855 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 88%
   ABG: ///35/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   205 K/uL
   97 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.6 mEq/L
   17 mg/dL
   95 mEq/L
   138 mEq/L
   31.7 %
   5.6 K/uL
        [image002.jpg]
                             [**2183-9-21**]  07:05 PM
                             [**2183-9-22**]  02:56 AM
                             [**2183-9-23**]  03:03 AM
                             [**2183-9-23**]  05:54 PM
                             [**2183-9-24**]  05:36 AM
                             [**2183-9-25**]  03:10 AM
   WBC
   7.5
   6.1
   6.2
   5.6
   Hct
   28.5
   30.7
   31.0
   31.7
   Plt
   199
   194
   211
   205
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   TropT
   0.02
   TCO2
   29
   Glucose
   77
   84
   120
   107
   97
   Other labs: CK / CKMB / Troponin-T:33//0.02, Ca++:9.3 mg/dL, Mg++:2.1
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Resp Distress
   Pneumonia
   Anemia
   1.       Afib with RVR: precipitated by hypoxemia, some volume
   overload, apsiration. Now resolved. We will control acutely bblocker.
   She does have known diastolic dysfunction and needs adequate filling
   time.
   2.       Hypoxemic Resp Distress- combination of pulmonary edema and
   Pneumonia
 her exam today has worsening consolidation -  this could be
   worsening nosocomial PNA versus aspiration. We added meropenem.  double
   GNR coverage and get additional sputum samples. NPO and swallow study.
   Goal 500 to 1000 cc negative as BP tolerates. She remains DNI
   3.       Anemia: this HCT is actually at baseline, will trend guiac all
   stools
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2183-9-22**] 02:00 PM
   20 Gauge - [**2183-9-24**] 02:58 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: